### PR TITLE
[Merged by Bors] - chore: golf using `grind` and `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
The goal of this golfing PR is to decrease the number of times lemmas are called explicitly (replacing calls to lemmas with calls to tactics). Any decrease in compilation time is a welcome side effect, although it is not a primary objective.

Trace profiling results (shown if ≥10 ms before or after):
* `ComplexShape.exists_distinct_prev_or`: <10 ms before, 22 ms after
* `ComplexShape.exists_distinct_next_or`: <10 ms before, 43 ms after
* `DFinsupp.filter_ne_eq_erase'`: <10 ms before, 23 ms after
* `List.Pairwise.rel_head_tail`: <10 ms before, 42 ms after
* `List.Pairwise.rel_head_of_rel_head_head`: <10 ms before, 63 ms after
* `EuclideanGeometry.oangle_eq_oangle_rev_of_two_zsmul_eq_of_angle_eq_pi_div_two`: 78 ms before, <10 ms after  🎉

This golfing PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 1]
```diff
@@ -581,9 +581,8 @@ theorem filter_ne_eq_erase (f : Π₀ i, β i) (i : ι) : f.filter (· ≠ i) =
 
 @[simp]
 theorem filter_ne_eq_erase' (f : Π₀ i, β i) (i : ι) : f.filter (i ≠ ·) = f.erase i := by
-  rw [← filter_ne_eq_erase f i]
-  congr with j
-  exact ne_comm
+  ext
+  grind
```
Comment (Komyyy) [inline Mathlib/Data/DFinsupp/Defs.lean]: If you add the attribute `@[grind ext]` to `DFinsupp.ext`, many lemmas including this can be proven by simply `grind`.
But it should be done in another PR...

File: Mathlib/Geometry/Euclidean/Angle/Oriented/RightAngle.lean [hunk 2]
```diff
@@ -602,15 +602,7 @@ lemma oangle_eq_oangle_rev_of_two_zsmul_eq_of_angle_eq_pi_div_two {p₁ p₂ p
...
-  suffices |(∡ p₅ p₆ p₄).toReal| < π / 2 by
-    convert this using 1
-    nth_rw 2 [← abs_neg]
-    congr
-    rw [Real.Angle.toReal_neg_eq_neg_toReal_iff]
-    intro hc
-    simp only [hc, Real.Angle.toReal_pi, abs_of_pos Real.pi_pos] at this
-    linarith [Real.pi_pos]
-  exact abs_oangle_toReal_lt_pi_div_two_of_angle_eq_pi_div_two h₄₅₆
+  simp [abs_oangle_toReal_lt_pi_div_two_of_angle_eq_pi_div_two h₄₅₆]
```
Comment (Komyyy) [inline Mathlib/Geometry/Euclidean/Angle/Oriented/RightAngle.lean]:
```lean4
  rw [oangle_rev, Real.Angle.abs_toReal_neg]
  exact abs_oangle_toReal_lt_pi_div_two_of_angle_eq_pi_div_two h₄₅₆
```

You can avoid `simp` here with one more `rw`.

**Review by Komyyy — COMMENTED** [review]
Thank you for your contributions!

File: Mathlib/Data/DFinsupp/Defs.lean (hunk 1 above)
Comment (Komyyy) [reply Mathlib/Data/DFinsupp/Defs.lean]:
```suggestion
  ext; grind
```

In the meantime, it is preferable to the one-liner `ext; grind`. (also `filter_ne_eq_erase` while you're at it)

File: Mathlib/Geometry/Euclidean/Angle/Oriented/RightAngle.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Euclidean/Angle/Oriented/RightAngle.lean]: I think that's even slightly nicer.

File: Mathlib/Data/DFinsupp/Defs.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Data/DFinsupp/Defs.lean]: Thanks a lot for reviewing! Now using one-liners.

File: Mathlib/Geometry/Euclidean/Angle/Oriented/RightAngle.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/Geometry/Euclidean/Angle/Oriented/RightAngle.lean]: Thanks a lot for reviewing! Now closing with `exact` as suggested.

**Review by Komyyy — APPROVED** [review]

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
